US05714487
A solution of 0.971 g (4.18 mmol) of (7R,8aS)-7-hydroxy-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Diafi, L.; et al. J. Het. Chem., 1990, 27, 2181), 0.703 g (6.27 mmol) of 4-fluorophenol and 1.32 g (5.02 mmol) of triphenylphosphine in 20 mL of dry THF was treated with 0.79 mL (5.02 mmol) of diethyl azodicarboxylate and the solution stirred at room temperature for 21 h. Excess HCl (g) in diethyl ether was added, the precipitate was collected on a Buchner funnel, washing with ethyl acetate. The gummy residue was dissolved in a mixture of ethyl acetate and aqueous ammonium hydroxide, the layers were separated, the aqueous phase was extracted with more ethyl acetate (2×), the combined organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by silica gel MPLC with 95:5 ethyl acetate:methanol gave 1.3 g (95%) of (7S,8aS)-7-(4-fluorophenoxy)-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine.

reactant | (7R,8aS)-7-hydroxy-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 4.18 mmol, 0.971 g | O[C@@H]1C[C@@H]2N(CCN(C2)CC2=CC=CC=C2)C1 | C14H20N2O
reactant | 4-fluorophenol | 6.27 mmol, 0.703 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 5.02 mmol, 1.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.02 mmol, 0.79 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | HCl | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (7S,8aS)-7-(4-fluorophenoxy)-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 1.3 g, 95% | FC1=CC=C(O[C@H]2C[C@@H]3N(CCN(C3)CC3=CC=CC=C3)C2)C=C1 | C20H23FN2O
